Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Lower extremity weakness and incontinence 
 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
Mr. ___ is an ___ year old gentleman with a significant history 
of peripheral vascular disease including a AAA repair ___ years 
ago and a bilateral femoral endarterectomy ___ years ago, on 
plavix, who presents with acute onset of bilateral lower 
extremity numbness, weakness, and incontinence. He reports 
transient intermittent loss of motor and sentory function in his 
L leg for the past few months which has become more frequent in 
the last two weeks. Yesterday while standing at work he felt 
acute onset bilateral lower extremity numbness, tingling and 
weakness. All previous episodes were only in his left leg. He 
also noticed that he briefly lost continence of his bowels 
(without diarrhea). No urinary incontinence. He went home from 
work and called his physician who told him to come in for urgent 
evaluation. No further bowel incontinence since. [Please note 
that in the ED dashboard the call in says: ___ year old male 
cheif complaint of abd pain x 1month may have a pancreatic 
mass...??" however this appears to be for a different patient.]
.
On arrival in the ED his initial vital signs were 97.9 120/90 72 
18 100/ra. He was noted to have decreased reflexes in his left 
knee and decreased but present rectal tone. Vascular was 
consulted with concern for spinal cord compromise in the setting 
of a AAA repair. An MRI showed known disc disease at C5-C7 but 
no acute compromise of his spinal cord. Spine was notified (not 
formerly consulted) and said that given his imaging he could be 
admitted to medicine and followed by vascular and neurology. He 
received 2x 1mg IV dilaudid and 1.5 mg IV ativan as well as his 
evening coreg and gabapentin. Vital signs at the time of 
transfer were 97 63 100/ra 127/75.
.
On the floor he appeared a bit anxious and reporting significant 
lower back pain although he appeared relatively comfortable. He 
was ambulating up and down the halls with his IV. He reports no 
further episodes of incontinance and his lower extremity 
strength and numbness have resolved.
. 
 
Past Medical History:
CAD s/p MI (___) with stent (unclear type) on plavix
peripheral vascular disease s/p AAA repair and s/p ileofemoral 
bypass
carotid artery stenosis (~80% per patient)
h/o bilateral claudication
hyperlipidemia
chronic low back pain
h/o left hip surgery
h/o gastrojejunostomy 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
VS: 97.2 120/67 58 18 100/ra
Gen: NAD
HEENT: NCAT PERRL EOMI
Neck: no JVP
CV: RRR S1 S2 No R/G/M
Lungs: sparse faint crackles but otherwise clear
Abd: Soft, NTND, +BS
Ext: no edema, warm and perfused, faint but palpable DP pulses 
bilaterally, no cyanosis
Skin: no rash appreciated
Neuro: CNII-XII intact, strength and sensation intact throughout 
including across saddle region, R patellar 2+, L patellar 
absent, rectal tone WNL 
.
Exam at discharge: Same as above except:
Neurologic examination: 
Mental status: 
General:  alert, awake, normal affect
Orientation:  oriented to person, place, date, situation.

Speech/Language: fluent w/o phonemic or semantic paraphasic
errors; comprehension was normal. 

Cranial Nerves:  
II: Pupils equally round and reactive to light, 4 to 2 mm
bilaterally. Visual fields are full to confrontation. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus. 
V1-3: Sensation intact V1-V3. 
VII: Facial movement symmetric. 
VIII: Hearing intact to finger rub bilaterally. 
IX & X: Palate elevation symmetric. Uvula is midline. Gives a
good cough.
XI: Sternocleidomastoid and trapezius full strength bilaterally. 

XII: Good bulk. No fasciculations. Tongue midline, movements
intact.

Motor: 
Decreased bulk in adductors bilaterally in ___. Tone normal. No
observed myoclonus or tremor
No pronator drift
        Delt; C5 bic:C6 Tri:C7 Wr ext:C6 Fing ext:C7
Left     5         5       5       5          5
Right    5         5       5       5          5
.
        IP: Quad:  Hamst: Dorsiflex: ___
Left    5      5      5    5          5     5
Right   4      5      5    5          5     5
.
Deep tendon Reflexes:
.
          Biceps: Tric: Brachial: Patellar:  Achilles   Toes:
Right       1       1        1          2      mute      mute
Left        1       1        1       mute      mute      mute

Sensation: Intact to light touch.  Pinprick diminished in
distribution of L2 in the right leg, and L2, L3, and L4 on the
left side.
 
Coordination: finger-nose-finger slowed but normal, RAMs normal.
 
Pertinent Results:
Admission Labs:
___ 03:07PM BLOOD WBC-7.0 RBC-4.23* Hgb-13.5* Hct-39.6* 
MCV-94 MCH-31.9 MCHC-34.1 RDW-13.6 Plt ___
___ 03:07PM BLOOD Neuts-71.0* ___ Monos-3.2 Eos-3.2 
Baso-1.2
___ 06:30AM BLOOD ___ PTT-28.3 ___
___ 03:07PM BLOOD ESR-11
___ 03:07PM BLOOD Glucose-88 UreaN-14 Creat-0.9 Na-138 
K-4.7 Cl-105 HCO3-24 AnGap-14
___ 03:07PM BLOOD Cholest-277*
___ 03:07PM BLOOD Triglyc-441* HDL-39 CHOL/HD-7.1 
LDLmeas-164*
___ 03:07PM BLOOD CRP-1.6
___ 06:30AM BLOOD Calcium-8.9 Phos-3.7 Mg-2.2
Discharge labs:
___ 06:40AM BLOOD WBC-5.3 RBC-3.76* Hgb-11.9* Hct-34.7* 
MCV-93 MCH-31.6 MCHC-34.2 RDW-13.3 Plt ___
___ 06:40AM BLOOD Glucose-107* UreaN-21* Creat-1.0 Na-137 
K-4.4 Cl-108 HCO3-22 AnGap-11
.
CSF:
___ 01:42PM CEREBROSPINAL FLUID (CSF) WBC-2 RBC-1* Polys-0 
___ ___ 01:42PM CEREBROSPINAL FLUID (CSF) TotProt-58*
___ 01:42PM CEREBROSPINAL FLUID (CSF) VARICELLA DNA 
(PCR)-PND
___ 01:42PM CEREBROSPINAL FLUID (CSF) CYTOMEGALOVIRUS - 
PCR-PND
___ 01:42PM CEREBROSPINAL FLUID (CSF) HERPES SIMPLEX VIRUS 
PCR-PND
___ 1:42 pm CSF;SPINAL FLUID      Source: LP. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN.

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   VIRAL CULTURE (Preliminary): 

 
Brief Hospital Course:
___ vasculopath s/p AAA repair presenting with acute onset 
bilateral ___ numbness and weakness along with bowel incontinence 
x1 that continued to have pain and paresthesia/numbness 
intermittently but patient ambulatory.
.
.
# Lower Extremity Weakness/Numbness + Incontinence: Presentation 
was initially very concerning for cord compression but there was 
no evidence of cord compression on MRI of C, T, L spine. These 
images were reviewed with the staff radiologist by the medical 
team in person. Vascular, neurosurgery, neurology were 
consulted. Vascular surgery felt this to be unlikely to be 
related to AAA repair. Neurosurgery felt the exam was 
non-localizing and that no spinal pathology appeared present and 
no surgical intervention was needed. Neurology performed LP 
given concern for viral or carcinomatous meningitis but studies 
were pending at time of discharge. They also raised the 
possibility of an inflammatory cauda equine. He was seen to be 
ambulating throughout admission though he reported continued 
pain and intermittent paresthesias and numbness in his buttock 
and lower extremities. His gabapentin was increased to Q8h 
dosing and he was treated prn with dilaudid IV. He was 
discharged on his home dose of vicodin. He underwent CTA of the 
iliac/femoral/lower ext which showed on preliminary read 
extensive plaque and circumferential clot seen throughout aorta 
extending through iliacs and branches throughout the legs, focal 
aneurysmal dilation of right external iliac up to 2.5 cm, SFA 
narrowed bilaterally with multiple areas of constriction, focal 
narrowing of the left popliteal but no obstruction and three 
vessel run-off present bilaterally. He should also have EMG and 
nerve conduction studies to evaluate for polyradiculopathy. 
.
# Peripheral Vascular Disease: The patient has an extensive 
history of atherosclerotic vasculopathy. He underwent AAA repair 
___ years ago, followed by Dr. ___. He was continued on 
aspirin and plavix and he was discharged on a nicotine patch. He 
was counselled on the importance of smoking cessation with his 
PVD.
.
# Carotid Artery Stenosis: Vascular surgery recommended carotid 
ultrasound which showed Right ICA stenosis <40%, Left ICA 
stenosis 70-79%. This result should be followed with either his 
existing vascular surgeon or Dr. ___ at ___ if patient 
desires. Plavix and aspirin were continued and nicotine patch 
was given.
.
# CAD: The patient has a history of MI in ___ with stent. He 
did not report any chest pain or shortness of breath or other 
signs or symptoms of ACS. He was put on rosuvastatin 10mg during 
admission as home dose was not known. He was discharged on this 
dose.
.
# Hyperlipidemia: His triglycerides were markedly elevated to 
441, total cholesterol 277, HDL 39, LDL 164. He was started on 
rosuvastatin 10mg as his home dose was unknown. 
.
# Primary Care: The patient was scheduled to follow up with 
___ MD at ___ on ___. 
-f/u CSF viral studies, cytology
-f/u final read CTA aorto-iliacs
-neurology f/u ___
-pt. should be scheduled for f/u with vascular surgery for f/u 
for carotid stenosis
-may need uptitration of rosuvastatin
 
Medications on Admission:
iscussed with patient
plavix 75mg daily
lisinopril 10mg daily
aspirin 81mg daily
gabapentin 300mg QHS
xanax 0.5mg QID prn
vicodin 1mg QID prn
carvedilol 6.25mg BID
crestor (unsure of dose) 
 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO every eight 
(8) hours.
Disp:*90 Capsule(s)* Refills:*0*
5. Xanax 0.5 mg Tablet Sig: One (1) Tablet PO four times a day 
as needed for anxiety.  
6. Hydrocodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q6H (every 6 hours) as needed for pain.  
7. Carvedilol 6.25 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
8. Rosuvastatin 10 mg Tablet Sig: One (1) Tablet PO at bedtime.  

9. Nicotine 14 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).
Disp:*30 Patch 24 hr(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Bilateral lower extremity weakness, paresthesia, numbness of 
unclear etiology

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for symptoms of leg weakness, 
pain and numbness. You had an MRI of your spine which showed 
some disc buldging although no evidence of spinal cord 
compromise. You also had a lumbar puncture which was 
unrevealing. You also had a CT scan of your blood vessels which 
did not provide an explanation for your symptoms. You were 
evaluated by neurosurgery and vascular surgery who felt there 
was no need for surgery at this time. You were evaluated by 
neurology as well. 
.
Some of your medications were changed during this admission:
INCREASE gabapentin to 300mg by mouth every 8 hours
START nicotine patch daily
.
You should continue to take all of your other medications as 
prescribed.
 
Followup Instructions:
___